US07612067B2
Preparation of 8-(1-ethyl-propyl)-2,6-dimethyl-3-[3-ethyl-5-(6-methyl-pyridin-2-yl)-thiophen-2-yl]-imidazo[1,2-b]pyridazine
Using a procedure similar to Example 31, 2-bromo-6-ethyl pyridine (0.26 g, 1.41 mmol), 1.56 M n-Bu-Li (0.94 mL, 1.47 mmol), 0.5 M ZnCl2 in THF (3.0 mL, 1.53 mmol), 3-(5-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.50 g, 1.27 mmol) and PdCl2(dppf) (0.047 g, 0.064 mmol) produce the title compound (0.15 g, 0.36 mmol, 28%). 1H NMR (CDCl3), δ 0.90 (t, J=7.5 Hz, 6H), 1.34 (t, J=7.5 Hz, 3H), 1.75-1.94 (m, 4H), 2.16 (s, 3H), 2.51 (s, 3H), 2.52 (s, 3H), 2.85 (q, J=16.2, 7.5 Hz, 2H), 3.31-3.41 (m, 1H), 6.67 (s, 1H), 7.01 (d, J=7.8 Hz, 1H), 7.46 (d, J=7.9 Hz, 1H), 7.53 (s, 1H), 8.59 (t, J=7.8 Hz, 1H). LC/MS (m/z): calcd. for C25H30N4S (M+H)+: 419.3; found: 419.3.

reactant | 2-bromo-6-ethyl pyridine | 1.41 mmol, 0.26 g | BrC1=NC(=CC=C1)CC | C7H8BrN
reactant | n-Bu-Li | 1.47 mmol, 1.56 M, 0.94 mL | C(CCC)[Li]
reactant | THF | 1.53 mmol, 3.0 mL | C1CCOC1 | C4H8O
reactant | 3-(5-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 1.27 mmol, 0.50 g | BrC1=CC(=C(S1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)C | C18H22BrN3S
catalyst | ZnCl2 | 0.5 M | [Cl-].[Cl-].[Zn+2]
catalyst | PdCl2(dppf) | 0.064 mmol, 0.047 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 8-(1-ethyl-propyl)-2,6-dimethyl-3-[3-ethyl-5-(6-methyl-pyridin-2-yl)-thiophen-2-yl]-imidazo[1,2-b]pyridazine | 0.36 mmol, 0.15 g, 28% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C=2SC(=CC2CC)C2=NC(=CC=C2)C | C25H30N4S
